US07358235B2
6-(4-Nitrobenzylthio)-purine
After stirring a mixture of 30 mmol of 6-mercaptopurine monohydrate (5.12 g) and 30 mmol of water-free K2CO3 (4.12 g) in 25 mL of dry DMF for 5 minutes, 30 mmol of 4-nitrobenzylbromide (6.48 g) was added. After stirring for 4 h, 200 mL of H2O was added. The obtained solid was filtered and washed with EtOAc and CH2Cl2, followed by drying under vacuum. Yield: 91%.—White powder.

reactant | 6-mercaptopurine monohydrate | 30 mmol, 5.12 g | O.SC1=C2NC=NC2=NC=N1
reactant | water | 30 mmol, 4.12 g | O | H2O
reactant | 4-nitrobenzylbromide | 30 mmol, 6.48 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | H2O | 200 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-(4-Nitrobenzylthio)-purine | Yield: 91% | [N+](=O)([O-])C1=CC=C(CSC2=C3NC=NC3=NC=N2)C=C1 | C12H9N5O2S
